US04081552
2. 3', 4'-dichloro-5-cyanovalerophenone O-(2-aminoethyl) oxime hydrochloride
A mixture of 7.2 mmol (1.85 g) of 3', 4'-dichloro-5-cyanovalerophenone (melting point 49°-51° C), 7.2 mmol (1.08 g) of 2-aminooxyethylamine dihydrochloride, 1.0 ml of pyridine and 7 ml of absolute ethanol was refluxed for 3 hours. The reaction mixture was then further processed in a manner identical to that described in Example 1. After crystallization from an ethanol-ether mixture the above entitled compound was obtained with a melting point of 134°-135° C.

reactant | 3', 4'-dichloro-5-cyanovalerophenone | 7.2 mmol, 1.85 g | ClC=1C=C(C=CC1Cl)C(CCCCC#N)=O | C12H11Cl2NO
reactant | 2-aminooxyethylamine dihydrochloride | 7.2 mmol, 1.08 g | Cl.Cl.NOCCN
reactant | pyridine | 1.0 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 3', 4'-dichloro-5-cyanovalerophenone O-(2-aminoethyl) oxime hydrochloride | Cl.NCCON=C(CCCCC#N)C1=CC(=C(C=C1)Cl)Cl | InChI=1S/C14H17Cl2N3O.ClH/c15-12-6-5-11(10-13(12)16)14(19-20-9-8-18)4-2-1-3-7-17;/h5-6,10H,1-4,8-9,18H2;1H
